US05047540
A solution of 76 mg of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane IIa6 in 1 ml of thiazole is heated at 60° C. for 6 hours. After the solvent is evaporated, the residue is washed with ether and subsequently with acetonitrile to give 32 mg of 2-methoxy-1-octadecylcarbamoylthio-3-(3-thiazoliniopropylsulfonylamino)propane iodide Ia26 in 37% yield.

reactant | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane | 76 mg | ICCCS(=O)(=O)NCC(CSC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O4S2
reactant | thiazole | 1 ml | S1C=NC=C1 | C3H3NS
product | 2-methoxy-1-octadecylcarbamoylthio-3-(3-thiazoliniopropylsulfonylamino)propane iodide | 32 mg, 37% yield | [I-].COC(CSC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCCC1SCC=[NH+]1 | InChI=1S/C29H57N3O4S3.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-31-29(33)38-26-27(36-2)25-32-39(34,35)24-19-20-28-30-22-23-37-28;/h22,27-28,32H,3-21,23-26H2,1-2H3,(H,31,33);1H
